US04808593
To a solution of 2.7 g of α,2-dimethyl-5H-[1]benzopyrano [2,3-b]pyridine-7-acetic acid in 15 ml of dimethylformamide are added 0.8 g of potassium carbonate and 1.1 g of 2-chloroacetamide, and stirred at 80° C. for 1 hour under a nitrogen atmosphere. The reaction mixture is poured into ice water, and the precipitated crystals are collected by filtration, washed with water, and then recrystallized from ethanol to obtain 2.7 g of carbamoylmethyl α,2-dimethyl-5H-[1]benzopyrano [2,3-b]pyridine-7-acetate as white crystals having a melting point of 175° to 177° C.

reactant | α,2-dimethyl-5H-[1]benzopyrano [2,3-b]pyridine-7-acetic acid | 2.7 g | CC(C(=O)O)C=1C=CC2=C(CC=3C(=NC(=CC3)C)O2)C1 | C16H15NO3
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacetamide | 1.1 g | ClCC(=O)N | C2H4ClNO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | carbamoylmethyl α,2-dimethyl-5H-[1]benzopyrano [2,3-b]pyridine-7-acetate | 2.7 g | CC(C(=O)OCC(N)=O)C=1C=CC2=C(CC=3C(=NC(=CC3)C)O2)C1 | C18H18N2O4
